US07732444B2
Intermediate 118: (Alloc protection) tert-Butyl-[3-(2-chloro-pyrimidin-4-yl)-benzyl]-carbamic acid allyl ester:
tert-Butyl-[3-(2-chloro-pyrimidin-4-yl)-benzyl]-amine from the above reaction (1.33 g, 4.84 mmol) was treated with allyl chloroformate (0.77 mL) in methylene chloride (15 mL) with diisopropyl ethylamine (1.7 mL) at room temperature for 3 hours. The mixture was diluted with methylene chloride (50 mL), washed with water (2×), brine, dried over Na2SO4, filtered. Removal of the solvent followed by chromatography on silica gel (1:4 ethyl acetate:hexane eluent) afforded product in 61% yield. LC-MS showed the product had the expected M+H+ of 360. 1H NMR (Varian 300 MHz, CDCl3, shifts relative to the solvent peak at 7.24 ppm) 8.6 (d, 1H) 7.9 (d, 2H) 7.6 (d, 1H) 7.4 (m, 2H) 5.9 (m, 1H) 5.2 (m, 2H) 4.7 (s, 2H) 4.6 (d, 2H) 1.4 (s, 9H).

reactant | tert-Butyl-[3-(2-chloro-pyrimidin-4-yl)-benzyl]-amine | C(C)(C)(C)NCC1=CC(=CC=C1)C1=NC(=NC=C1)Cl | C15H18ClN3
reactant | allyl chloroformate | 0.77 mL | ClC(=O)OCC=C | C4H5ClO2
reactant | diisopropyl ethylamine | 1.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl-[3-(2-chloro-pyrimidin-4-yl)-benzyl]-carbamic acid allyl ester | 61% yield | C(C=C)OC(N(CC1=CC(=CC=C1)C1=NC(=NC=C1)Cl)C(C)(C)C)=O | C19H22ClN3O2
